### PR TITLE
Prove `handleInvocation_ccorres`

### PR DESCRIPTION
**Pull request by michaelmcinerney**
Test with seL4/seL4@michaelm/ipc_queues_mcs_testing

### CODE REVIEW

**Comment by michaelmcinerney** [comment]
Because this is targeting a branch other than `rt` or whatever, the tests aren't running correctly, so I've cancelled them. When the branch I've targeted has been merged, I can test again. This does all pass locally, I'm quite sure.

File: proof/crefine/RISCV64/Syscall_C.thy [hunk 1]
```diff
@@ -1215,209 +1225,213 @@ lemma handleInvocation_ccorres:
...
-                      apply (clarsimp simp: word_less_nat_alt)
-                      apply (rule conjI)
-                       apply clarsimp
-                       apply (case_tac rvd, clarsimp simp: option_to_ptr_def option_to_0_def min_def n_msgRegisters_def)
-                       apply (clarsimp simp: option_to_0_def option_to_ptr_def)
+           apply (rule_tac xf'="\<lambda>s. (status_' s, current_extra_caps_' (globals s))"
+                       and ef'=fst and vf'=snd and es=errstate
+                        in ccorres_split_nothrow_case_sum)
+                apply (rule ccorres_call, rule lookupExtraCaps_ccorres, simp+)
+               apply (rule ceqv_tuple2, ceqv, ceqv)
```
Comment (lsf37) [inline proof/crefine/RISCV64/Syscall_C.thy:1257]: This is just reindented, I think, but it made me see the `ceqv_tuple2` which is a bit weird. Could you double check if a single `ceqv` invocation works? It's possible that this a left-over from times where `ceqv` was still in development. Also entirely possible that the manual `xf'` instantiation above (also old) still makes this necessary, though.

**Review by lsf37 — APPROVED** [review]
One sorry closer..

Nice to see that the sendFaultIPC lemma now has a sane interface.

**Comment by lsf37** [comment]
> Because this is targeting a branch other than `rt` or whatever, the tests aren't running correctly, so I've cancelled them. When the branch I've targeted has been merged, I can test again. This does all pass locally, I'm quite sure.

👍

We can re-run before we merge it all into `rt`.

File: proof/crefine/RISCV64/Syscall_C.thy (hunk 1 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Syscall_C.thy:1257]: Yep, just a single `ceqv` does work. I've updated it and will push either when I do further updates after more comments or when we're ready to merge.

File: proof/refine/RISCV64/Ipc_R.thy [hunk 2]
```diff
@@ -2979,6 +2979,11 @@ lemma bound_sc_tcb_at_cross':
    \<Longrightarrow> bound_sc_tcb_at' P t s'"
   by (fastforce dest!: bound_sc_tcb_at_cross simp: pred_tcb_at'_def obj_at'_def opt_map_red)
 
+defs bound_sc_tcb_at_asrt_def:
+  "bound_sc_tcb_at_asrt flag t s \<equiv> flag \<longrightarrow> bound_sc_tcb_at' (\<lambda>a. \<exists>y. a = Some y) t s"
```
Comment (corlewis) [inline proof/refine/RISCV64/Ipc_R.thy:2983]: I've lost track, do we still want to use the `bound` input abbreviation for conditions like this?

**Review by corlewis — APPROVED** [review]
Very nice!

File: proof/refine/RISCV64/Ipc_R.thy (hunk 2 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Ipc_R.thy:2983]: I will never use `bound` ever again for the rest of my life.

Comment (corlewis) [reply proof/refine/RISCV64/Ipc_R.thy:2983]: Haha, fair enough, it did seem to cause a lot more confusion for us all than it helped with. If we're consistent in using this form with exists then we already have the main benefit from it anyway.

Comment (lsf37) [reply proof/refine/RISCV64/Ipc_R.thy:2983]: I'd also prefer not using `bound`

File: proof/crefine/RISCV64/Syscall_C.thy (hunk 1 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Syscall_C.thy:1257]: I must not have checked the entire proof or something, because just a single `ceqv` doesn't work. Should I just leave it with the `ceqv_tuple2, ceqv, ceqv` (which does work) or should I investigate further?

Comment (lsf37) [reply proof/crefine/RISCV64/Syscall_C.thy:1257]: It's fine, let's leave it as is. Looks like it is not just a left-over.
